US09290451B2
6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (1-methyl-1-[1,2,4]oxadiazol-3-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (Example 113 d) and 1-methyl-1-[1,2,4]oxadiazol-3-yl ethylamine (CAN 1153757-41-5) as starting materials, MS (EI): m/e=371.2 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C11H10F3NO3
reactant | 1-methyl-1-[1,2,4]oxadiazol-3-yl ethylamine | CC(C)(C1=NOC=N1)N | C5H9N3O
product | 6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (1-methyl-1-[1,2,4]oxadiazol-3-yl-ethyl)-amide | CC(C)(C1=NOC=N1)NC(=O)C1=NC(=C(C=C1)C(F)(F)F)OCC1CC1 | C16H17F3N4O3
